US08304539B2
To a heterogeneous mixture of 2-(tert-butoxycarbonylamino)thiazole-5-carboxylic acid (1.0 g, 4.1 mmol), 1-hydroxybenzotriazole hydrate (0.63 g, 4.1 mmol), N,N-diisopropylethylamine (4.3 mL, 24 mmol), methylamine hydrochloride (0.83 g, 12 mmol) in anhydrous acetonitrile (20 mL), was added WSCDI (2.4 g, 12 mmol) at room temperature under a nitrogen atmosphere and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. To the residue was added saturated aqueous sodium bicarbonate solution (20 mL), ethyl acetate (6 mL), and heptane (2 mL). The solid that separates out was filtered, washed with water (2×2 mL) and diethyl ether (2×4 mL), and dried to give tert-butyl 5-(methylcarbamoyl)thiazol-2-ylcarbamate (0.77 g, 73% yield) as a white solid. MS found: (M+H)+=258; 1H NMR (400 MHz, methanol-d4) δ ppm 7.83 (s, 1H), 2.87 (s, 3H), 1.55 (s, 9H).

reactant | 2-(tert-butoxycarbonylamino)thiazole-5-carboxylic acid | 4.1 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC=1SC(=CN1)C(=O)O | C9H12N2O4S
reactant | 1-hydroxybenzotriazole hydrate | 4.1 mmol, 0.63 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 24 mmol, 4.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylamine hydrochloride | 12 mmol, 0.83 g | Cl.CN
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-butyl 5-(methylcarbamoyl)thiazol-2-ylcarbamate | 0.77 g, 73% yield | CNC(=O)C1=CN=C(S1)NC(OC(C)(C)C)=O | C10H15N3O3S
